US06093732
To a solution of ethyl 8-fluoro-4-hydroxy-6-iodoquinolone-3-carboxylate (1.5 g) in 60 mL of 1:1 MeOH:THF is added 16 mL of 1M LiOH. The reaction is maintained at 40° C. overnight. The reaction mixture is cooled to room temperature, then diluted with 40 mL glacial acetic acid. The resulting precipitate is collected, washed with H2O, and dried to yield 0.890 g of 8-fluoro-6-iodoquinoline-3-carboxylic acid as a white solid. This acid (0.25 g) and 1,1'-carbonyldiimidazole (0.146 g) are dissolved in mL anhydrous THF and heated at 65° C. for 3 days. After the reaction mixture is cooled to room temperature, 4-chlorophenylhydrazine (0.161 g) and diisopropylethylamine (0.16 mL) are added. The reaction mixture is heated at 65° C. overnight to solubilize the reactants. The mixture is cooled to room temperature and partitioned between EtOAc and H2O. The aqueous layer is extracted with EtOAc (2×). The combined organic layers are washed with brine (1×), dried over Na2SO4, and condensed. The crude product is recrystallized with EtOAc/hexanes to yield 0.13g of the desired product as an off-white solid.

reactant | ethyl 8-fluoro-4-hydroxy-6-iodoquinolone-3-carboxylate | 1.5 g | FC=1C=C(C=C2C(=C(C(NC12)=O)C(=O)OCC)O)I | C12H9FINO4
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 1M, 16 mL | [Li+].[OH-]
solvent | MeOH | 60 mL | CO | CH4O
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 8-fluoro-6-iodoquinoline-3-carboxylic acid | 0.890 g | FC=1C=C(C=C2C=C(C=NC12)C(=O)O)I | C10H5FINO2
